* OPA548 ON, observed 105 kHz VCMD imposed as diagnostic consequence test.
.include "models/OPA548.LIB"
VPP VP 0 5
VNN VN 0 -5
VIN INP 0 SIN(0 2 105k)
RFB OUT INN 1m
RILIM ILIM VN 57.6k
VES ES VN 3.5
XU1 INP INN ILIM VN VP OUT ES OPA548
R12 OUT SNUB 4.7
C4 SNUB 0 47n
RLEAK OUT 0 100Meg
.control
set noaskquit
tran 0.05u 0.5m 0.1m 0.05u
meas tran IP_MIN MIN i(VPP) from=0.2m to=0.5m
meas tran IP_MAX MAX i(VPP) from=0.2m to=0.5m
meas tran IN_MIN MIN i(VNN) from=0.2m to=0.5m
meas tran IN_MAX MAX i(VNN) from=0.2m to=0.5m
meas tran OUT_MAX MAX v(OUT) from=0.2m to=0.5m
meas tran OUT_MIN MIN v(OUT) from=0.2m to=0.5m
let OUT_PP=OUT_MAX-OUT_MIN
let IP_DRAW_PK=-IP_MIN
let IN_DRAW_PK=IN_MAX
print OUT_PP IP_DRAW_PK IN_DRAW_PK IP_MAX IN_MIN
* Mean rail draw is distinct from instantaneous peak; neither models bench CC.
meas tran IP_AVG AVG i(VPP) from=0.2m to=0.5m
meas tran IN_AVG AVG i(VNN) from=0.2m to=0.5m
let IP_DRAW_AVG=-IP_AVG
let IN_DRAW_AVG=IN_AVG
print IP_DRAW_AVG IN_DRAW_AVG
quit
.endc
.end
